### PR TITLE
[Merged by Bors] - refactor: define `≤`/`<` on `WithBot`/`WithTop` by induction

### PR DESCRIPTION
**Pull request by YaelDillies**
The motivation for this change is that it is really confusing to run `intro r s shouldnthaveintroedthat` on a goal of the form `∀ r s : ℝ≥0∞, r ≤ s` and get the nonsense-looking goal `r = ↑shouldnthaveintroedthat → ∃ b : α, s = ↑b ∧ shouldnthaveintroedthat ≤ b⟩` instead of an error, and similarly when destructing something of the form `∃ r s : ℝ≥0∞, r < s`.

Furthermore, I suspect this improves performance.

---

- [x] depends on: #20317
- [x] depends on: #20318
- [x] depends on: #21274
- [x] depends on: #22109

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/WithBot.lean [hunk 1]
```diff
@@ -168,17 +169,24 @@ theorem eq_unbot_iff {a : α} {b : WithBot α} (h : b ≠ ⊥) :
...
 section LE
 
-variable [LE α]
+variable [LE α] {x y : WithBot α}
 
-instance (priority := 10) le : LE (WithBot α) :=
-  ⟨fun o₁ o₂ => ∀ a : α, o₁ = ↑a → ∃ b : α, o₂ = ↑b ∧ a ≤ b⟩
+/-- The order on `WithBot α`, defined by `⊥ ≤ ⊥`, `⊥ ≤ ↑a` and `a ≤ b → ↑a ≤ ↑b`. -/
+@[mk_iff]
+inductive le : WithBot α → WithBot α → Prop
```
Comment (eric-wieser) [inline Mathlib/Order/WithBot.lean:176]: How does this compare to
```lean
def le : WithBot α → WithBot α → Prop
 | (a : WithBot α), (b: WithBot α) => a ≤ b
 | none, _ => True
```

Comment (eric-wieser) [inline Mathlib/Order/WithBot.lean:176]: Also, shouldn't this be `le` or `Le`?

Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:176]: This suggestion is invalid since you aren't covering the `(a : alpha), \bot` case (at least once you fix the typo in the first branch)

Once you've covered it, the following won't work:
```
example : \forall x y : WithBot alpha, x <= y -> True
  | \bot, \bot, _ => sorry
  | \bot, (b : alpha), _ => sorry
  | (a : alpha), (b : alpha) => sorry
```

File: Mathlib/Order/WithBot.lean [hunk 2]
```diff
@@ -177,13 +179,23 @@ section LE
 
 variable [LE α] {x y : WithBot α}
 
-instance (priority := 10) le : LE (WithBot α) :=
-  ⟨fun o₁ o₂ => ∀ a : α, o₁ = ↑a → ∃ b : α, o₂ = ↑b ∧ a ≤ b⟩
+/-- The order on `WithBot α`, defined by `⊥ ≤ ⊥`, `⊥ ≤ ↑a` and `a ≤ b → ↑a ≤ ↑b`. -/
+@[mk_iff] -- TODO: `mk_iff` generates `lE_iff`
+protected inductive LE : WithBot α → WithBot α → Prop
+  | protected bot_le (x : WithBot α) : WithBot.LE ⊥ x
+  | protected coe_le_coe {a b : α} : a ≤ b → WithBot.LE a b
```
Comment (urkud) [inline Mathlib/Order/WithBot.lean:186]: An alternative approach I tried (but failed to fix all failures) is to define `le` and `lt` using `match`, so that `WithBot.some x ≤ WithBot.some y` is defeq `x ≤ y`.

File: Mathlib/Order/WithBot.lean [hunk 3]
```diff
@@ -177,13 +179,23 @@ section LE
 
 variable [LE α] {x y : WithBot α}
 
-instance (priority := 10) le : LE (WithBot α) :=
-  ⟨fun o₁ o₂ => ∀ a : α, o₁ = ↑a → ∃ b : α, o₂ = ↑b ∧ a ≤ b⟩
+/-- The order on `WithBot α`, defined by `⊥ ≤ ⊥`, `⊥ ≤ ↑a` and `a ≤ b → ↑a ≤ ↑b`. -/
+@[mk_iff] -- TODO: `mk_iff` generates `lE_iff`
```
Comment (urkud) [inline Mathlib/Order/WithBot.lean:183]: You can use `@[mk_iff le_iff]` as a workaround.

File: Mathlib/Order/WithBot.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:186]: Personally, my goal is for the two relations not to be foralls. It's really annoying that `intro` sees through `<=` on `ENNReal` for example.

Comment (urkud) [reply Mathlib/Order/WithBot.lean:186]: Can we postpone this PR until Feb 17? If I don't suggest a working alternative (a PR that builds) until then, then we go forward with merging this one.

Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:186]: Yes, no problem. I don't have time to work on this PR in the foreseeable future anyway.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Order/WithBot.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean]: This is what I ended up doing

File: Mathlib/Order/WithBot.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean]: I ended up going for this

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by b-mehta** [comment]
!bench

**Comment by urkud** [comment]
Is it clear why the build takes longer?

**Comment by YaelDillies** [comment]
It is clear to me: `WithTop.some x ≤ WithTop.some y` and `WithBot.some x ≤ WithBot.some y` are now instance-eq to `x ≤ y` whereas previously they weren't even defeq.

Before 0583647, `WithTop.some x ≤ WithTop.some y` and `WithBot.some x ≤ WithBot.some y` weren't defeq to `x ≤ y`, but they were also not defeq to each other, which turns out to be really annoying. The definition as an inductive pre- 0583647 also made it easier to pattern-match on things (cf https://github.com/leanprover-community/mathlib4/pull/19668#discussion_r1866427697).

I would like to restore that definition as an inductive, but I am not sure how to do it in a way that keeps `WithTop.some x ≤ WithTop.some y` and `WithBot.some x ≤ WithBot.some y` defeq. Maybe I should just abuse defeq and define `≤` on `WithBot α` as `≤` on `(WithBot αᵒᵈ)ᵒᵈ`. What do you think?

**Comment by JovanGerb** [comment]
Is it true that your motivation for defining it with `match` instead of `inductive` was to be able to continue using defeq abuse? And as a result, the build got slower?

So since we are now trying to get away from the defeq abuse, we might want to consider the version with `inductive` again?

**Comment by YaelDillies** [comment]
> Is it true that your motivation for defining it with `match` instead of `inductive` was to be able to continue using defeq abuse? And as a result, the build got slower?

"defeq abuse" is quite unspecific here as it could refer to two things:
1. `(a b : Option α) : (a : WithTop α) ≤ b ↔ (b : WithBot α) ≤ a`. This is the good defeq, the one that lets us dualise.
2. `(a b : α) : (a : WithTop α) ≤ b ↔ a ≤ b`. This is the bad defeq, the one that slows the whole build down.
 
The (current) `match` approach makes both 1 and 2 defeq. The "two inductives" approach makes none of them defeq. The "one shared inductive" approach makes 1 defeq and 2 not defeq but is possibly a bit weird?

When your `to_dual` attribute actually works, we won't need 1 to be defeq anymore, so we could go with the "two inductives" approach. Before that happens, either we use the `match` approach and bite the bullet on the performance regression, or we use the "one shared inductive" approach at the cost of things looking a bit weird.

File: Mathlib/Order/WithBot.lean [hunk 4]
```diff
@@ -183,26 +183,30 @@ section LE
...
+  cases x <;> cases y <;> simp [LE.le]
 
 @[simp, norm_cast] lemma coe_le_coe : (a : WithBot α) ≤ b ↔ a ≤ b := by simp [le_def]
 
 lemma not_coe_le_bot (a : α) : ¬(a : WithBot α) ≤ ⊥ := by simp [le_def]
 
-instance orderBot : OrderBot (WithBot α) where bot_le := by simp [le_def]
+instance instOrderBot : OrderBot (WithBot α) where bot_le := by simp [le_def]
 
-instance orderTop [OrderTop α] : OrderTop (WithBot α) where le_top x := by cases x <;> simp [le_def]
```
Comment (JovanGerb) [inline Mathlib/Order/WithBot.lean:263]: Did this `OrderTop (WithBot _)` instance get removed accidentally?

**Review by JovanGerb — COMMENTED** [review]
How does this PR interact with the recent push by @kim-em to make `WithBot` and `WithTop` be the same inductive? Given what you said in your last message, I think it would be fitting to have the `≤` relation also be a shared inductive.

File: Mathlib/Order/WithBot.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Order/WithBot.lean:263]: I am dropping it because it's covered by the `BoundedOrder` instance just below

**Comment by YaelDillies** [comment]
> How does this PR interact with the recent push by @kim-em to make `WithBot` and `WithTop` be the same inductive? Given what you said in your last message, I think it would be fitting to have the `≤` relation also be a shared inductive.

I was thinking the same, in fact. It's not my favorite solution, but I'll try it

**Comment by Vierkantor** [comment]
I'm marking this PR as awaiting-author until you implement the shared inductive ≤ relation. Feel free to remove the label if you don't think this is a good idea anymore.

**Comment by JovanGerb** [comment]
Wouldn't `le_iff_forall` be a more sensible name compared to `le_iff_exists`?

File: MathlibTest/hint.lean [hunk 5]
```diff
@@ -172,7 +172,7 @@ end field_simp
 section finiteness
 /--
 info: Try these:
-  • 🎉 finiteness
+  • 🎉 tauto_set
```
Comment (b-mehta) [inline MathlibTest/hint.lean]: This looks pretty undesirable to me: the test was meant to be showing that `finiteness` is suggested on this goal, and now `tauto_set` is suggested to show finiteness of 1?

Comment (JovanGerb) [reply MathlibTest/hint.lean]: In my opinion, `hint` is quite broken. It only suggests one thing and it doesn't have a way of telling which suggesting is better that which other suggestion.

Comment (YaelDillies) [reply MathlibTest/hint.lean]: Yes, unfortunately this test is not very deterministic and so I can't do much about it

File: MathlibTest/hint.lean
Comment (Vierkantor) [inline MathlibTest/hint.lean]: Is there a way to verify manually that `hint` would still be able to suggest `finiteness`? For example commenting out / not importing the place where `tauto_set` gets added to the `hint` set.
```suggestion
-- TODO: this should suggest `finiteness` but `tauto_set` seems to come first now for some reason.
/--
info: Try these:
  • 🎉 tauto_set
-/
#guard_msgs in
open ENNReal in
example : (1 : ℝ≥0∞) < ∞ := by hint
end finiteness
```

File: Mathlib/Order/WithBot.lean [hunk 6]
```diff
@@ -237,33 +237,39 @@ section LE
 
 variable [LE α] {x y : WithBot α}
 
-instance (priority := 10) le : LE (WithBot α) :=
-  ⟨fun o₁ o₂ => ∀ a : α, o₁ = ↑a → ∃ b : α, o₂ = ↑b ∧ a ≤ b⟩
+/-- The order on `WithBot α`, defined by `⊥ ≤ ⊥`, `⊥ ≤ ↑a` and `a ≤ b → ↑a ≤ ↑b`. -/
```
Comment (Vierkantor) [inline Mathlib/Order/WithBot.lean]:
```suggestion
/-- The order on `WithBot α`, defined by `⊥ ≤ ⊥`, `⊥ ≤ ↑a` and `a ≤ b → ↑a ≤ ↑b`.

Equivalently, `x ≤ y` can be defined as `∀ a : α, x = ↑a → ∃ b : α, y = ↑b ∧ a ≤ b`,
see `le_if_forall`. The definition as an inductive predicate is preferred since it
cannot be accidentally unfolded too far.
-/
```

**Review by Vierkantor — APPROVED** [review]
I like the change! Now that most of the build issues and conflict with other PRs appear fixed, let's get this merged.

bors d+

File: MathlibTest/hint.lean
Comment (YaelDillies) [reply MathlibTest/hint.lean]: Turns out I can simply move the finiteness test above the tauto_set one, but 🤫

**Comment by YaelDillies** [comment]
bors merge

**Comment by YaelDillies** [comment]
bors merge

**Comment by JovanGerb** [comment]
@YaelDillies, I'm a bit confused why you defined `≤` as an inductive predicate, but `<` using `match`. Are you going to define `<` as an inductive predicate in a future PR?

**Comment by YaelDillies** [comment]
Indeed that was an accident. I have just opened #30848 to fix it.
